US07105565B2
1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carbothioic acid[2-(1,3-dimethylbutyl)phenyl]amide
In a sulfonation flask a mixture of 0.6 g 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carboxylic acid[2-(1,3-dimethylbutyl)phenyl]amide, 0.45 g P2S5 and 30 ml dioxane is heated at 70–75° C. for 3 hours. After filtration, the solvent is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed twice with water and ethylacetate is removed in a water jet vacuum. The crude material is purified by column chromatography over silica gel (eluant: ethylacetate/n-hexane=1:1). Yield: 0.53 g 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carbothioic acid [2-(1,3-dimethylbutyl)phenyl]amide in the form of a reddish resin (1H-NMR).

reactant | 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carboxylic acid[2-(1,3-dimethylbutyl)phenyl]amide | 0.6 g | CC(CC(C)C)C1=C(C=CC=C1)NC(=O)C1=CN(C=C1C(F)(F)F)C | C19H23F3N2O
reactant | P2S5 | 0.45 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carbothioic acid[2-(1,3-dimethylbutyl)phenyl]amide | CC(CC(C)C)C1=C(C=CC=C1)NC(=S)C1=CN(C=C1C(F)(F)F)C | C19H23F3N2S
